US07834039B2
Under an atmosphere of nitrogen a mixture of 1H-indole-4-carboxylic acid (3.88 g, 24.05 mmol), (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride (4.61 g, 24.05 mmol) and benzotriazol-1-ol hydrate (3.68 g, 24.05 mmol) in anhydrous DMF (61.4 ml) was stirred at ambient temperature for about 1 h. To the reaction mixture a solution of 3-chloro-N-hydroxy-4-isopropoxybenzamidine (5.0 g, 21.87 mmol) in DMF (11.51 ml) was added. The mixture was stirred and heated at about 140° C. for about 2 h. The mixture was cooled to ambient temperature and poured into water (IL). The product was partitioned between ethyl acetate and the aqueous phase. The organic layer washed with 1N HCl (4×150 mL), 1N NaOH (2×150 mL) and water (2×300 mL), dried over MgSO4 and filtered. The solvent was removed under reduced pressure and the crude product was purified by elution through Florisil with heptane/ethyl acetate (2:1) to give 3-(3-chloro-4-isopropoxyphenyl)-5-(1H-indol-4-yl)-1,2,4-oxadiazole (2.76 g, 35.7%). LCMS (Table 1, Method b) Rt=2.69 min, m/z 354.17 (M+H)+.

reactant | 1H-indole-4-carboxylic acid | 24.05 mmol, 3.88 g | N1C=CC=2C(=CC=CC12)C(=O)O | C9H7NO2
reactant | (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride | 24.05 mmol, 4.61 g | Cl.CN(CCCN=C=NCC)C
reactant | benzotriazol-1-ol hydrate | 24.05 mmol, 3.68 g | O.N1(N=NC2=C1C=CC=C2)O
reactant | 3-chloro-N-hydroxy-4-isopropoxybenzamidine | 21.87 mmol, 5.0 g | ClC=1C=C(C(=N)NO)C=CC1OC(C)C | C10H13ClN2O2
solvent | DMF | 61.4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 11.51 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(3-chloro-4-isopropoxyphenyl)-5-(1H-indol-4-yl)-1,2,4-oxadiazole | 2.76 g, 35.7% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=C2C=CNC2=CC=C1 | C19H16ClN3O2
